US04834907
On the other hand, p-hydroxybenzoic acid methyl ester (28.5 g, 0.187 mol) was dissolved in methanol (120 ml), followed by adding and dissolving KOH (10.1 g, 0.187 mol), adding to the solution, optically active p-toluenesulfonic acid 1-methyl-butyl ester obtained above (50 g, 0.206 mol), keeping the mixture under reflux for 4 hours, cooling, adding toluene (200 ml) and 6N-HCl (50 ml), washing the toluene layer with 2N-NaOH aqueous solution, then with water till the washing water became neutral, and distilling off toluene to obtain as a residue, optically active p-(1-methyl-butyloxy)benzoic acid methyl ester (16.6 g, 0.070 mol), which was then dissolved in ethanol (5 ml), NaOH (4.2 g, 0.105 mol) and water (21 ml), heating under reflux for one hour, cooling, pouring the reaction solution in 6N-HCl aqueous solution (50 ml) with stirring, separating deposited crystals by filtration, and recrystallizing from ethanol to obtain optically active p-(1-methyl-butyloxy)benzoic acid having a m.p. of 67.0°~68.8° C. (9.3 g). To this product (6.5 g, 0.031 mol) was added thionyl chloride (6.0 g, 0.047 mol), followed by heating under reflux for one hour and distilling off excess thionyl chloride to obtain optically active p-(1-methyl-butyloxy)benzoic acid chloride (6.2 g).

reactant | p-hydroxybenzoic acid methyl ester | 0.187 mol, 28.5 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | KOH | 0.187 mol, 10.1 g | [OH-].[K+]
reactant | p-toluenesulfonic acid 1-methyl-butyl ester | CC(CCC)OS(=O)(=O)C1=CC=C(C=C1)C | C12H18O3S
reactant | HCl | 50 ml | Cl | ClH
reactant | p-(1-methyl-butyloxy)benzoic acid methyl ester | 0.070 mol, 16.6 g | COC(C1=CC=C(C=C1)OC(CCC)C)=O | C13H18O3
reactant | NaOH | 0.105 mol, 4.2 g | [OH-].[Na+]
reactant | HCl | 50 ml | Cl | ClH
solvent | methanol | 120 ml | CO | CH4O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 21 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | p-(1-methyl-butyloxy)benzoic acid | CC(CCC)OC1=CC=C(C(=O)O)C=C1 | C12H16O3
